US08283364B2
2,3-Difluoro-6-iodo-4-methylphenyl isocyanate (D20)
A mixture of 2,3-difluoro-6-iodo-4-methylaniline D19 (330 mg, 1.2 mmol), triphosgene (150 mg, 0.5 mmol), and dioxan (5 ml) was heated at 100° C. for 15 min then cooled and evaporated to give the crude title compound used directly in the next step.

reactant | 2,3-difluoro-6-iodo-4-methylaniline | FC1=C(N)C(=CC(=C1F)C)I | C7H6F2IN
reactant | triphosgene | 0.5 mmol, 150 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | 2,3-Difluoro-6-iodo-4-methylphenyl isocyanate | FC1=C(C(=CC(=C1F)C)I)N=C=O | C8H4F2INO
